US07566724B2
In the same manner as in Reference Example 2, tetrahydro-4-(4-iodophenyl)-2H-pyran-4-ol (302 mg) and iodoethane (0.119 ml) were reacted to obtain 4-ethoxy-tetrahydro-4-(4-iodophenyl)-2H-pyran (269 mg).

reactant | tetrahydro-4-(4-iodophenyl)-2H-pyran-4-ol | 302 mg | IC1=CC=C(C=C1)C1(CCOCC1)O | C11H13IO2
reactant | iodoethane | 0.119 ml | ICC | C2H5I
product | 4-ethoxy-tetrahydro-4-(4-iodophenyl)-2H-pyran | 269 mg | C(C)OC1(CCOCC1)C1=CC=C(C=C1)I | C13H17IO2
